US05352792
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoylamino]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester (537 mg: 0.68 mMol.) in a mixture of anisole (2 ml) and nitromethane (8 ml) at -30° C. is added a solution of aluminum chloride (0.54 g: 4 mMol. ) in anisole (2 ml), and the mixture is stirred for 1 hour. The reaction mixture is diluted with ethanol (3 ml), stirred for 5 minutes, mixed with 1N-hydrochloric acid (8 ml) and water (200 ml), washed with ethyl acetate, and concentrated under reduced pressure to remove remaining organic solvents. The resulting aqueous solution is subjected to chromatography over styrene-divinylbenzene copolymer (methanol: water=4:1) to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-pentenoylamino]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid (156 mg) as white solid. Yield: 44%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoylamino]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.68 mMol, 537 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=C/CC)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)SCSC=2N=NNC2 | C36H37N7O6S4
reactant | aluminum chloride | 4 mMol, 0.54 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 8 ml | Cl | ClH
reactant | water | 200 ml | O | H2O
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 8 ml | [N+](=O)([O-])C | CH3NO2
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-pentenoylamino]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid | 156 mg, Yield: 44% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCSC=2N=NNC2)C(=O)O)C1=O)=C/CC | C18H19N7O4S4
